US06710060B2
Synthesis of N-(4-ethoxyphenyl)-N-methyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide
A solution of 4′-ethoxy-N-methylacetanilide (0.97 g) in an anhydrous tetrahydrofuran (30 mL) was cooled to −78° C. under an argon atmosphere, and lithium hexamethyldisilazide (1M tetrahydrofuran solution; 6 mL) was added to the solution at below −65° C., followed by stirring at −78° C. for 15 minutes. Subsequently, 1-benzylpiperidin-4-one (1.1 g) was added to the reaction mixture at below −65° C., and the mixed solution was stirred at −78° C. for 10 minutes. After increasing the temperature to room temperature, water was added to the mixture and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The titled compound (1.08 g) was obtained by recrystallization of the obtained residue from hexane.

reactant | 4′-ethoxy-N-methylacetanilide | 0.97 g | C(C)OC1=CC=C(N(C(C)=O)C)C=C1 | C11H15NO2
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | lithium hexamethyldisilazide | 1M, 6 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1-benzylpiperidin-4-one | 1.1 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | water | O | H2O
product | N-(4-ethoxyphenyl)-N-methyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide | 1.08 g | C(C)OC1=CC=C(C=C1)N(C(CC1(CCN(CC1)CC1=CC=CC=C1)O)=O)C | C23H30N2O3
